US07601736B2
8-chloro-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on (250 mg, 1.265 mmol) was suspended in 8 mL of anhydrous acetonitrile and then dropwisely added with 1.0 mL of triethylamine and piperidine (0.19 mL, 1.898 mmol) in this order and heated to reflux for about 3 hours under the nitrogen atmosphere. The mixture was concentrated under reduced pressure, added with 10 mL of a saturated solution of ammonium chloride and 10 mL of distilled water and then extracted twice with 30 mL of methylene chloride. The resulting organic layer was dried using anhydrous sodium sulfate, filtered and concentrated. A silica gel column chromatography (10% EtOAc/MC) was performed on the resulting residue and 296 mg (95%)of 6-methyl-8-piperidine-1-yl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on was obtained in white solid.

reactant | 8-chloro-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 1.265 mmol, 250 mg | ClC=1N=C(C=C2C1C(OCC2)=O)C | C9H8ClNO2
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | piperidine | 1.898 mmol, 0.19 mL | N1CCCCC1 | C5H11N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 6-methyl-8-piperidine-1-yl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 296 mg, 95% | CC=1C=C2C(=C(N1)N1CCCCC1)C(OCC2)=O | C14H18N2O2
